US07297816B2
2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-N-[2-(4-chloro-phenyl)-2-methyl-propyl]-benzamide
2-(Benzo[2,5]thiadiazole-4-sulfonylamino)-4-chloro-N-[2-(4-chloro-phenyl)-2-methyl-propyl]-benzamide. 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chlorobenzoic acid was coupled with 2-(4-chloro-phenyl)-2-methyl-propylamine as in EXAMPLE 1, Part C. HPLC: RT=11.08 min. MS (ESI−): mass calcd. for C23H20Cl2N4O3S2, 534.04; m/z found, 533/535 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.53 (s, 1H), 8.35 (dd, J=7.0, 1.0, 1H), 8.22 (dd, J=8.8, 1.0, 1H), 7.71 (dd, J=8.8, 7.0, 1H), 7.70 (d, J=1.8, 1H), 7.35-7.31 (m, 2H), 7.30-7.26 (m, 2H), 6.89 (d, J=8.3 1H), 6.86 (dd, J=8.4, 1.8, 1H), 5.58-5.52 (m, 1H), 3.56 (d, J=6.1, 2H), 1.36 (s, 6H).

reactant | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chlorobenzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)Cl | C13H8ClN3O4S2
reactant | 2-(4-chloro-phenyl)-2-methyl-propylamine | ClC1=CC=C(C=C1)C(CN)(C)C | C10H14ClN
product | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-N-[2-(4-chloro-phenyl)-2-methyl-propyl]-benzamide | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)NCC(C)(C)C1=CC=C(C=C1)Cl)C=CC(=C2)Cl | C23H20Cl2N4O3S2
